US06956049B1
Ethyl thiooxamate (3.0 g, 22 mmol) was dissolved in ethanol (30 mL) under argon. Chloroacetone (1.8 mL, 22 mmol) was added and the resultant solution was heated at 80° C. for 16 h. The reaction mixture was concentrated in vacuo, adsorbed onto silica gel, and purified by column chromatography on silica gel eluting with 97:3, then 95:5 hexane:ethyl acetate to afford ethyl 4-methyl-1,3-thiazole-2-carboxylate (850 mg, 22% yield) as an oil. 1H NMR (CDCl3, 300 MHz) 7.20 (s, 1H), 4.48 (q, J=7.1 Hz), 2.56 (s, 3H), 1.47 (s, 3H). MS (EI ionization) 171 (M+).

reactant | Ethyl thiooxamate | 22 mmol, 3.0 g | C(C(=O)N)(=S)OCC | C4H7NO2S
reactant | Chloroacetone | 22 mmol, 1.8 mL | ClCC(C)=O | C3H5ClO
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 4-methyl-1,3-thiazole-2-carboxylate | 850 mg, 22% yield | CC=1N=C(SC1)C(=O)OCC | C7H9NO2S
